US04737497
dl-1-[4-(N-Phenylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-2-(3,5-dioxopiperazin-1-yl)-propane
A mixture of N-phenylpiperazine (0.81 g, 5 m mole), DMF (13.4 ml), absolute ethanol (3,3 ml), 37% aqueous formaldehyde solution (0.43 ml) and dl-1,2-bis(3,5-dioxopiperazin-1-yl)-propane (1.34 g, 5 m mole) was stirred at room temperature for 48 hours. Then, the precipitates thus obtained were collected and were washed with absolute ethanol and then with ether. The washed precipitates were dried under a reduced pressure to give the titled compound (1.39 g; yield 62%). The compound obtained in this Example was proved to be identical with the compound described in Example 10 on the basis of the melting point and IR Spectrum.

reactant | N-phenylpiperazine | 0.81 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DMF | 13.4 ml | CN(C)C=O | C3H7NO
reactant | formaldehyde | 0.43 ml | C=O | CH2O
reactant | 1,2-bis(3,5-dioxopiperazin-1-yl)-propane | 1.34 g | O=C1CN(CC(N1)=O)CC(C)N1CC(NC(C1)=O)=O | C11H16N4O4
solvent | ethanol | 3,3 ml | C(C)O | C2H6O
product | 1-[4-(N-Phenylpiperazinomethyl)-3,5-dioxopiperazin-1-yl]-2-(3,5-dioxopiperazin-1-yl)-propane | 1.39 g, yield 62% | C1(=CC=CC=C1)N1CCN(CC1)CN1C(CN(CC1=O)CC(C)N1CC(NC(C1)=O)=O)=O | C22H30N6O4
